US07700609B2
(2-{[2-(3-Sulfamoyl-phenylamino)-thieno[2,3-h]quinazoline-8-carbonyl]-amino}-ethyl)-carbamic acid tert-butyl ester
2-(3-Sulfamoyl-phenylamino)-thieno[2,3-h]quinazoline-8-carboxylic acid (150 mg, 0.37 mmol), 1-hydroxy-7-azabenzotriazole (56 mg, 0.41 mmol), N,N-diisopropylethylamine (73 mg, 0.56 mmol) and BOC-ethylenediamine (66 mg, 0.41 mmol) were dissolved in dry DMF (2 mL) and cooled in an ice-bath. EDC (79 mg, 0.41 mmol) was added in one portion and the resultant suspension was stirred overnight allowing the ice-bath to melt. The reaction was concentrated under reduced pressure, redissolved in isopropanol (˜10 mL) and water was added (˜5 mL). The precipitate formed was isolated by filtration and washed with water (1×5 mL), dilute NaHSO4 (1×5 mL), water (1×5mL), saturated Na2CO3 (1×5 mL), water (1×5mL), isopropanol (1×5 mL), diethyl ether (2×5 mL) and pentane (2×5 mL) giving an ochre powder (102 mg, 51% yield). MS (ES+) 543. δH (d6 DMSO) 1.2-1.5 (9H, s), 3.3-3.5 (4H, br m), 6.6 (0.1 H, br s), 7.0 (0.9H, br s), 7.1-7.4 (2H, br s), 7.4-7.6 (2H, m), 7.8-8.0 (2H, m), 8.2 (1H, m), 8.6-9.0 (3H, br m), 9.4 (1H, s), 10.3-10.6 (1H, br s).

reactant | 2-(3-Sulfamoyl-phenylamino)-thieno[2,3-h]quinazoline-8-carboxylic acid | 0.37 mmol, 150 mg | S(N)(=O)(=O)C=1C=C(C=CC1)NC1=NC2=C3C(=CC=C2C=N1)SC(=C3)C(=O)O | C17H12N4O4S2
reactant | 1-hydroxy-7-azabenzotriazole | 0.41 mmol, 56 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N,N-diisopropylethylamine | 0.56 mmol, 73 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | BOC-ethylenediamine | 0.41 mmol, 66 mg | C(=O)(OC(C)(C)C)NCCN | C7H16N2O2
reactant | EDC | 0.41 mmol, 79 mg
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (2-{[2-(3-Sulfamoyl-phenylamino)-thieno[2,3-h]quinazoline-8-carbonyl]-amino}-ethyl)-carbamic acid tert-butyl ester | 102 mg, 51% yield | C(C)(C)(C)OC(NCCNC(=O)C1=CC=2C(=CC=C3C=NC(=NC23)NC2=CC(=CC=C2)S(N)(=O)=O)S1)=O | C24H26N6O5S2
